US08735387B2
(a) 2-(3-Fluoro-benzoylamino)-malonic acid diethyl ester
36.1 ml of triethylamine were added to a solution of 25 g of aminomalonic acid diethyl ester hydrochloride in 200 ml of dichloromethane with cooling in an ice bath. Then a solution of 18.7 g of 3-fluoro-benzoyl chloride in 100 ml of dichloromethane was added dropwise. After stirring for 2 h at 0° C., 100 ml of water were added dropwise. The layers were separated, and the aqueous layer was extracted with 100 ml of dichloromethane. The combined organic layers were dried with magnesium sulfate, filtered and evaporated to give 33.2 g of the crude title compound.

reactant | triethylamine | 36.1 ml | C(C)N(CC)CC | C6H15N
reactant | aminomalonic acid diethyl ester hydrochloride | 25 g | Cl.C(C)OC(C(C(=O)OCC)N)=O
reactant | 3-fluoro-benzoyl chloride | 18.7 g | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(3-Fluoro-benzoylamino)-malonic acid diethyl ester | 33.2 g | C(C)OC(C(C(=O)OCC)NC(C1=CC(=CC=C1)F)=O)=O | C14H16FNO5
